US05652246
3-Isopropenyl-5,6-dichloro-2(3H)-benzimidazolone
0.3 ml of 47% potassium hydroxide and 160 mmol of methyl acetoacetate in 20 ml of xylene are successively added to 150 mmol of 2-amino-4,5-dichloroaniline in 50 ml of xylene, stirred at 120° C. The whole mixture is brought to reflux for 4 hours, the water/methanol mixture formed being removed by means of a Dean and Stark apparatus. After addition of 26 ml of 47% potassium hydroxide and 17 ml of water, the aqueous phase is washed with xylene and then neutralized with acetic acid. The expected product crystallizes and is filtered off, washed and dried.

reactant | potassium hydroxide | 0.3 ml | [OH-].[K+]
reactant | methyl acetoacetate | 160 mmol | C(CC(=O)C)(=O)OC | C5H8O3
reactant | 2-amino-4,5-dichloroaniline | 150 mmol | NC1=C(N)C=C(C(=C1)Cl)Cl | C6H6Cl2N2
reactant | water methanol | O.CO
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-Isopropenyl-5,6-dichloro-2(3H)-benzimidazolone | C(=C)(C)N1C(NC2=C1C=C(C(=C2)Cl)Cl)=O | C10H8Cl2N2O
